US09193693B2
Step 1. (S)-methyl 1-benzyl-3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate
Into a 50-mL round-bottom flask, was placed methyl 1-benzyl-3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (3 g, 9.15 mmol, 1.00 equiv), (S)-2-methylpyrrolidine (1.55 g, 18.24 mmol, 2.00 equiv), DMSO (16 mL). The resulting solution was stirred overnight at 80° C. in an oil bath. The resulting solution was concentrated under vacuum. The residue was purified by silica gel column chromatography with ethyl acetate/petroleum ether (1:20). This resulted in 2.2 g (64%) of (S)-methyl 1-benzyl-3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a light yellow solid.

reactant | methyl 1-benzyl-3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 9.15 mmol, 3 g, 1.00 equiv | C(C1=CC=CC=C1)N1C(C(=NC2=CC(=CC=C12)C(=O)OC)Cl)=O | C17H13ClN2O3
reactant | (S)-2-methylpyrrolidine | 18.24 mmol, 1.55 g, 2.00 equiv | C[C@@H]1NCCC1 | C5H11N
solvent | DMSO | 16 mL | CS(=O)C | C2H6OS
product | (S)-methyl 1-benzyl-3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | C(C1=CC=CC=C1)N1C(C(=NC2=CC(=CC=C12)C(=O)OC)N1[C@H](CCC1)C)=O | C22H23N3O3
